US07368434B2
7-Ethylisoflavone (Analog 35)
This compound was prepared by the same method described for the synthesis of analog 23. To a solution of 6.51 g of phenylacetic acid (47.81 mmol) in 50 ml of boron trifluroide diethyl etherate was added 6.5 ml of 3-ethylphenol (53.20 mmol). The mixture was stirred at 80° C. for 21 hours, cooled to RT, and then washed with aqueous K2CO3 and water until the pH of wash approached neutrality. The product was extracted with ethyl acetate and concentrated. Residue was dissolved in 50 ml of 2-propanol and 8 ml of triethyl formate (48.1 mmol) and 3 ml of morpho line were added. The mixture was stirred at 80° C. for 7 hours and solvent was removed by flash evaporation. The syrup obtained was dissolved in 30 ml of methanol, stirred at 50° C. for 30 min, cooled to room temperature, and kept at 4° C. overnight. Crystals were collected by filtration and washed with small portions of acetone to give 790 mg of analog 35, a yield of 12.2% (based on 3-ethylphenol, w/w): mp 103-104° C. 1H NMR (DMSO-d6) δ 1.35 (t, 3H, —CH3), 2.78 (q, 2H, —CH2—), 7.38 (m, 4′-H), 7.39 (dd, 1H, J=8.10, 1.91 Hz, 6-H), 7.44 (t, 2H, J=7.77 Hz, 3′, 5′-H), 7.52 (d, 1H, J=2.0 Hz, 8H), 7.59 (dd, 2H, J=7.35, 1.38 Hz, 2′, 6′-H), 8.05 (d, 1H, J=8.54 Hz, 5-H), 8.51 (s, 1H, 2-H). 13C NMR (DMSO-d6) δ 14.9 (—CH3), 28.2 (CH2—), 116.7 (C-6, 8), 121.8 (C-10), 123.8 (C-3), 125.4 (C-1′), 125.8 (C-7), 127.8 (C-5), 128.1 (C-3′, 5′), 128.9 (C-2′, 6′), 131.9 (C-4′), 154.4 (C-2), 155.9 (C-9), 174.9 (C-4). MS (m/z), 251.4 (M+H)+, 273.2 (M+Na)+, 249.3 (M−H)−. Anal. (C17H14O2) for C, H. Cacld: 81.58, 6.91; found: 80.92, 6.87.

reactant | phenylacetic acid | 47.81 mmol, 6.51 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 3-ethylphenol | 53.20 mmol, 6.5 ml | C(C)C=1C=C(C=CC1)O | C8H10O
reactant | morpho line | 3 ml | N1CCOCC1 | C4H9NO
solvent | boron | 50 ml | [B] | B
solvent | methanol | 30 ml | CO | CH4O
product | 7-Ethylisoflavone | yield of 12.2% | C(C)C1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C17H14O2
